US08293904B2
Preparation of [2-(1H-Imidazol-4-yl)-ethyl]-carbamic acid tert-butyl ester
To 4-(2-tert-Butoxycarbonylamino-ethyl)-imidazole-1-carboxylic acid tert-butyl ester, were added 100 mL of methanol and 800 mL (5.73 mol) of triethylamine The reaction mixture was allowed to stir at room temperature for four days and concentrated to oil. To the residue were added 40 mL of ether and 80 mL of hexane. This mixture was allowed to stand at room temperature resulting in precipitation of product, as a white solid, which were collected. The yield was 1.7 g (8.0 mmol, 40%) (LC/MS M+H 212.1).

reactant | 4-(2-tert-Butoxycarbonylamino-ethyl)-imidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=NC(=C1)CCNC(=O)OC(C)(C)C | C15H25N3O4
reactant | triethylamine | 5.73 mol, 800 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 mL | CO | CH4O
product | [2-(1H-Imidazol-4-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC=1N=CNC1)=O | C10H17N3O2
